US07919504B2
To a 250 mL 3-neck round-bottom flask was added (1E,2E)-1,2-bis(3-bromobenzylidene)hydrazine (13.0 g, 35.5 mmol), aluminum(III) chloride (71.0 g, 533 mmol), and aluminum(III) bromide (71.0 g, 266 mmol). The mixture was stirred at 185-200° C. for 1 hour. The dark gum was cooled in an ice bath and slowly treated with 1.5 L of water. The suspension was filtered, and the precipitate was washed with 5% HCl. The solution was made basic with 15% potassium hydroxide and extracted with EtOAc three times. The organic extracts were dried over sodium sulfate, filtered and concentrated in vacuo. The residue was recrystallized from EtOAc and hexane to provide 5-bromophthalazine (3.12 g, 42%). LCMS (M+H) 209.2 calc. for C8H6BrN2 209.0. 1H NMR (400 MHz, CDCl3): δ ppm 7.78-7.83 (m, 1H) 7.95 (d, J=8.02 Hz, 1H) 8.14 (d, 1H) 9.49 (s, 2H).

reactant | (1E,2E)-1,2-bis(3-bromobenzylidene)hydrazine | 35.5 mmol, 13.0 g | BrC=1C=C(\C=N\N=C\C2=CC(=CC=C2)Br)C=CC1 | C14H10Br2N2
reactant | aluminum(III) chloride | 533 mmol, 71.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | aluminum(III) bromide | 266 mmol, 71.0 g | [Br-].[Al+3].[Br-].[Br-]
solvent | water | 1.5 L | O | H2O
product | 5-bromophthalazine | 3.12 g, 42% | BrC1=C2C=NN=CC2=CC=C1 | C8H5BrN2
